US05171753
α-[[(2-hydroxy-1,2-diphenylethyl)amino]methyl]-4-morpholinepropanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mol) and 4-(4-amino-3-hydroxybutyl)morpholine (3.48 g, 0.020 mol) was heated on a steam bath for 18 hours. The resulting viscous oil was dissolved in methanol (20 mL) and the solution poured into water (150 mL). The aqueous mixture was extracted twice with 100 mL portions of methylene chloride. The extract was dried (MgSO4) and concentrated to obtain 3.29 g of the impure product as an oil. The material was chromatographed on silica gel (60 g) using increasing portions of acetone in ethyl acetate to elute the product. After combining the desired fractions and concentration under vacuum, 2.21 g (67%) of the product was obtained. The product was purified and characterized as the cyclohexyl sulfamic acid salt, mp 159°-160° C. (methanol/isopropyl ether).

reactant | trans-stilbene oxide | 0.010 mol, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 4-(4-amino-3-hydroxybutyl)morpholine | 0.020 mol, 3.48 g | NCC(CCN1CCOCC1)O | C8H18N2O2
reactant | water | 150 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | α-[[(2-hydroxy-1,2-diphenylethyl)amino]methyl]-4-morpholinepropanol | 3.29 g | OC(C(C1=CC=CC=C1)NCC(CCN1CCOCC1)O)C1=CC=CC=C1 | C22H30N2O3
